US07728030B2
tert-Butyl {(1S)-1-methyl-2-oxo-2-[4-(trifluoromethyl)phenyl]ethyl}carbamate (59c)
To a stirred mixture of isopropylmagnesium chloride-lithium chloride complex (14% wt 1 M solution, 726 mg, 5 mmol, 5 ml) and THF (5 ml) was added 1-bromo-4-(trifluoromethyl)benzene (1.125 g, 5 mmol) under argon. The stirring was continued at r.t. for 4 h. A solution of N2-(tert-butoxycarbonyl)-N-methoxy-N-methyl-L-alaninamide (232 mg, 1 mmol) in THF (10 ml) was added dropwise, and the stirring was continued overnight at r.t. Then the reaction mixture was quenched with sat. aq. NH4Cl (20 ml), and stirring was continued for 30 min. The layers were separated, the aqueous layer extracted with ethyl acetate (20 ml). The combined organic extracts were dried over Na2SO4, and the solvent was evaporated to give yellow partly crystalline product. Purification by flash chromatography on silica gel with n-heptane/ethyl acetate afforded colourless solid, 260 mg (82%).

reactant | 1-bromo-4-(trifluoromethyl)benzene | 5 mmol, 1.125 g | BrC1=CC=C(C=C1)C(F)(F)F | C7H4BrF3
reactant | N2-(tert-butoxycarbonyl)-N-methoxy-N-methyl-L-alaninamide | 1 mmol, 232 mg | C(C)(C)(C)OC(=O)N[C@@H](C)C(=O)N(C)OC | C10H20N2O4
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | tert-Butyl {(1S)-1-methyl-2-oxo-2-[4-(trifluoromethyl)phenyl]ethyl}carbamate | C[C@@H](C(C1=CC=C(C=C1)C(F)(F)F)=O)NC(OC(C)(C)C)=O | C15H18F3NO3
